US09120761B2
(d) tert-Butyl 4-(4-((tert-butoxycarbonyl)amino)-3-methoxyphenyl)piperidine-1-carboxylate (I19)
A suspension of tert-butyl 4-(4-((tert-butoxycarbonyl)amino)-3-methoxyphenyl)-5,6-dihydropyridine-1(2H)-carboxylate (I18) (500 mg, 1.23 mmol) and 10% Pd/C (50 mg) in MeOH (30 mL) was stirred under an atmosphere of hydrogen for 16 hours. The resulting mixture was filtered through celite, washing with ethyl acetate (70 mL) then the filtrate evaporated to dryness. The residue was chromatographed (SiO2, 0-20% ethyl acetate/petroleum benzine 40-60° C.) to give the title compound (I19) (411 mg, 82%) as a pale yellow liquid; 1H NMR (400 MHz, CDCl3) δ 7.94 (d, J=7.4 Hz, 1H), 6.99 (s, 1H), 6.76 (d, J=8.3 Hz, 1H), 6.67 (s, 1H), 4.21 (s, 2H), 3.84 (s, 3H), 2.77 (t, J=12.2 Hz, 2H), 2.57 (ddd, J=12.1, 9.0, 3.3 Hz, 1H), 1.79 (d, J=12.6 Hz, 2H), 1.68-1.54 (m, 2H), 1.50 (s, 9H), 1.47 (s, 9H).

reactant | tert-butyl 4-(4-((tert-butoxycarbonyl)amino)-3-methoxyphenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.23 mmol, 500 mg | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)OC | C22H32N2O5
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | tert-Butyl 4-(4-((tert-butoxycarbonyl)amino)-3-methoxyphenyl)piperidine-1-carboxylate | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC | C22H34N2O5
